US07462630B2
Synthesis of N-[2-(t-butylamino)-1-(hydroxymethyl)-2-oxoethyl]-4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinecarboxamide:
113 mg (0.197 mmol) of N-[2-(t-butylamino)-1-({[t-butyl(dimethyl)-silyl]oxy}methyl)-2-oxoethyl]-4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinecarboxamide was dissolved in 3 ml of tetrahydrofuran. 0.22 ml of 1 M tetrabutylammonium fluoride/tetrahydrofuran solution was added to the obtained solution, and they were stirred for 30 minutes. After the purification by the silica gel chromatography (hexane:ethyl acetate=9:1 to 3:2), the title compound was obtained.

reactant | N-[2-(t-butylamino)-1-({[t-butyl(dimethyl)-silyl]oxy}methyl)-2-oxoethyl]-4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinecarboxamide | 0.197 mmol, 113 mg | C(C)(C)(C)NC(C(CO[Si](C)(C)C(C)(C)C)NC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)=O | C34H47N3O3Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1 M, 0.22 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-[2-(t-butylamino)-1-(hydroxymethyl)-2-oxoethyl]-4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinecarboxamide | C(C)(C)(C)NC(C(CO)NC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)=O | C28H33N3O3
